US04791115
2-Chloro-6-methyl-8α-pivaloylamino-9,10-didehydro-ergoline
A mixture of 2.0 g 6-methyl-8α-pivaloylamino-9,10-didehydro-ergoline, 100 ml CH2Cl2 and 50 mg silica gel is cooled to 0° and treated dropwise with 0.73 ml sulfurylchloride. The mixture is then stirred for 16 hours at room temperature, and then treated with 2N Na2SO4 and CH2Cl2. The organic phase is dried (Na2SO4), evaporated and chromatographed on 100 g silica gel using 8:2 CH2Cl2 /CH3OH. The title compound is obtained on crystallisaton from ether, m.p. 157°-160°.

reactant | 6-methyl-8α-pivaloylamino-9,10-didehydro-ergoline | 2.0 g | CN1C[C@H](C=C2C=3C=CC=C4NC=C(C[C@@H]12)C34)NC(C(C)(C)C)=O | C20H25N3O
reactant | sulfurylchloride | 0.73 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | Na2SO4 | 2N | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-Chloro-6-methyl-8α-pivaloylamino-9,10-didehydro-ergoline | ClC1=C2C[C@H]3N(C[C@H](C=C3C=3C=CC=C(N1)C32)NC(C(C)(C)C)=O)C | C20H24ClN3O
